US05155268
3'-Chloro-4'-((methylsulfonyl)amino)acetophenone, (Halogenation)
To 2.13 g (10 mmole) of N-(4-acetylphenyl)methanesulfonamide in 50 ml of alcohol and 50 ml of water at 30° C. is added 1.43 g (10 mmol) of calcium hypochlorite. The solution is stirred for 24 hrs and an additional 1.43 g of calcium hypochlorite added. The mixture is stirred for 3 days at room temperature. The mixture is acidified with acetic acid to pH 6; concentrated and extracted into water-methylene chloride. The organic layer is dried, evaporated and the residue flash chromatographed on silica gel eluting in succession with 25% and 50% ethyl acetate-pet. ether. The solid product is recrystallized from Et2O-pet. ether; m.p. 129°-131° C. MW 247.71.

reactant | N-(4-acetylphenyl)methanesulfonamide | 10 mmole, 2.13 g | C(C)(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H11NO3S
reactant | calcium hypochlorite | 10 mmol, 1.43 g | Cl[O-].[Ca+2].Cl[O-]
reactant | calcium hypochlorite | 1.43 g | Cl[O-].[Ca+2].Cl[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3'-Chloro-4'-((methylsulfonyl)amino)acetophenone | ClC=1C=C(C=CC1NS(=O)(=O)C)C(C)=O | C9H10ClNO3S
